US06063782
1-(2-Butenyl)-7-(4-fluorophenethyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine
0.10 g (0.0020 mole) of hydrazine hydrate was added to a solution of 0.39 g (0.00113 mole) of 1-(2-butenyl)-2-[1-chloro-3-(4-fluorophenyl)-1-propenyl]-3-formyl-4,5-dimethylpyrrole in 7 ml of ethanol and the resulting mixture was stirred at 75° C. for an hour. After completion of the reaction, the reaction mixture was concentrated under reduced pressure and the concentrate was diluted with ice-water. The aqueous mixture was extracted twice with 30 ml of ethyl acetate. The combined extracts were washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by column chromatography through silica gel using a 50:1 mixture of chloroform and methanol as an eluent to give 0.23 g of the title compound (cis/trans=22/78) as white powdery crystals.

reactant | hydrazine hydrate | 0.0020 mole, 0.10 g | O.NN
reactant | 1-(2-butenyl)-2-[1-chloro-3-(4-fluorophenyl)-1-propenyl]-3-formyl-4,5-dimethylpyrrole | 0.00113 mole, 0.39 g | C(C=CC)N1C(=C(C(=C1C)C)C=O)C(=CCC1=CC=C(C=C1)F)Cl | C20H21ClFNO
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 1-(2-Butenyl)-7-(4-fluorophenethyl)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.23 g | C(C=CC)N1C(=C(C=2C1=C(N=NC2)CCC2=CC=C(C=C2)F)C)C | C20H22FN3
